US07781479B2
1H-Imidazol-2-yl(4-methylphenoxy)methanone
To imidazole (6.80 g, 100 mmol) in pyridine (30 ml) was added triethylamine (20.2 g, 200 mmol) and the mixture was stirred under ice cooling. Therein was dropped p-toluoyl chloride (30.9 g, 200 mmol) in a period of 10 minutes. After addition of pyridine (70 ml) the mixture was stirred for 3 hours at room temperature. Thereto was added 4N aqueous sodium hydroxide solution (100 ml) and the mixture was stirred 3 hours at 80° C. The reaction mixture was allowed to stand at room temperature. After addition of water (200 ml), the mixture was stirred to give crystals. The crystals were taken by filtration and washed with water-methanol (1:1) to give the subject compound (9.83 g, 51%).

reactant | imidazole | 100 mmol, 6.80 g | N1C=NC=C1 | C3H4N2
reactant | triethylamine | 200 mmol, 20.2 g | C(C)N(CC)CC | C6H15N
reactant | p-toluoyl chloride | 200 mmol, 30.9 g | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
reactant | sodium hydroxide | 4N, 100 ml | [OH-].[Na+]
reactant | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
reactant | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 200 ml | O | H2O
product | 1H-Imidazol-2-yl(4-methylphenoxy)methanone | 9.83 g, 51% | N1C(=NC=C1)C(=O)OC1=CC=C(C=C1)C | C11H10N2O2
